US07713994B2
To a suspension of 1-(6-fluoro-5-nitropyridin-2-yl)-4-methylpiperazine.trifluoroacetic acid salt (0.38 g, 1.1 mmol) in ethanol (30 mL) is added triethylamine dropwise with agitation until all of the solid had dissolved. The mixture is then degassed with dry ice and treated with an aqueous slurry of Raney nickel (approx 1.5 mL). After shaking under 50 psi of hydrogen, the reaction mixture is filtered through a pad of diatomaceous earth and concentrated under reduced pressure to give 2-fluoro-6-(4-methyl-piperazin-1-yl)-pyridin-3-ylamine (contaminated with triethylammonium trifluoroacetate) as a red wine colored solid.

reactant | 1-(6-fluoro-5-nitropyridin-2-yl)-4-methylpiperazine | FC1=C(C=CC(=N1)N1CCN(CC1)C)[N+](=O)[O-] | C10H13FN4O2
reactant | trifluoroacetic acid | 1.1 mmol, 0.38 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-fluoro-6-(4-methyl-piperazin-1-yl)-pyridin-3-ylamine | FC1=NC(=CC=C1N)N1CCN(CC1)C | C10H15FN4
